US07135469B2
5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-N,N-dimethyl-pentanamidine
5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-pentanenitrile (0.050 g, 0.127 mmol) was dissolved in 1:1 MeOH/CHCl3 (15 mL). Hydrogen chloride gas was bubbled through the solution for 15 min. The reaction was tightly capped and sealed, stirred overnight at rt, and concentrated to dryness. The crude intermediate was dissolved in methanol (15 mL), and 2M dimethylamine (0.45 mL, 0.892 mmol) was added. The reaction was tightly capped and sealed and stirred overnight at rt, concentrated, and purified by reverse phase HPLC freeze-dried to afford the title compound (0.050 g, 89%): 1H NMR (CHCl3) δ9.30 (bs, 0.5H), 8.76 (bs, 0.5H), 7.42 (d, j=9.1 Hz, 2H), 6.96 (d, j=8.8 Hz, 2H), 3.84 (s, 3H), 3.68 (t, j=6.8 Hz, 2H), 3.51 (t, j=6.3 Hz, 2H), 3.14 (s, 3H), 3.10(s, 3H), 3.01 (t, j=6.8 Hz, 2H), 2.66–2.62 (m, 2H), 1.72–1.60(m, 4H) ppm; Mass Spec 438.3(M+H)+.

reactant | 5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-pentanenitrile | 0.127 mmol, 0.050 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CCCCC#N)=O)C(F)(F)F | C19H19F3N4O2
reactant | dimethylamine | 0.892 mmol, 2M, 0.45 mL | CNC | C2H7N
solvent | MeOH CHCl3 | 15 mL | CO.C(Cl)(Cl)Cl
product | 5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-N,N-dimethyl-pentanamidine | 0.050 g, 89% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CCCCC(=N)N(C)C)=O)C(F)(F)F | C21H26F3N5O2
